US06737383B1
Step A: Preparation of N-(2,4-Dichlorophenyl)-N′-hydroxyurea
A solution of 14.2 g (75 mmol) of 2,4-dichlorophenylisocyanate in 50 mL of toluene was added to a mixture of 8.26 g (120 mmol) of hydroxylamine hydrochloride and 4.8 g (120 mmol) of sodium hydroxide in a two-phase solvent mixture consisting of 50 mL of water and 50 mL of toluene. The resulting mixture was stirred at 25° C. for 30 minutes and filtered. The solid thus obtained was washed with water and then dissolved in 200 mL of ethyl acetate. The solution was dried over magnesium sulfate and the solvent was removed under reduced pressure to yield 12.7 g of the title compound of Step A as a white solid melting at 157-158° C. It was used directly in the next step without further purification.

reactant | 2,4-dichlorophenylisocyanate | 75 mmol, 14.2 g | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
reactant | hydroxylamine hydrochloride | 120 mmol, 8.26 g | Cl.NO
reactant | sodium hydroxide | 120 mmol, 4.8 g | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-Dichlorophenyl)-N′-hydroxyurea | 12.7 g | ClC1=C(C=CC(=C1)Cl)NC(=O)NO | C7H6Cl2N2O2
